US05017713
A mixture of 4-bromo-1-benzoylaminoanthraquinone (purity 98.5%, 41.2 g), monochlorobenzene (500 g), tetra-n-butyl ammonium bromide (0.3 g) and 96% potassium hydroxide (12.0 g) was stirred for one hour at 30° C., and methyl iodide (28.4 g) was added thereto at 30° C. over 2 hours. A mixture was stirred at 30° C. for 30 minutes and 40° C. for 3 hours, successively. Then, the same aftertreatment as in Example 3 was conducted to obtain 4-bromo-N-benzoyl-1-methylaminoanthraquinone (41.8 g, purity 94.5%, yield 94.0%).

reactant | 4-bromo-1-benzoylaminoanthraquinone | 41.2 g | BrC1=CC=C(C=2C(C3=CC=CC=C3C(C12)=O)=O)NC(C1=CC=CC=C1)=O | C21H12BrNO3
reactant | potassium hydroxide | 12.0 g | [OH-].[K+]
reactant | methyl iodide | 28.4 g | CI | CH3I
catalyst | tetra-n-butyl ammonium bromide | 0.3 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | monochlorobenzene | 500 g | ClC1=CC=CC=C1 | C6H5Cl
product | 4-bromo-N-benzoyl-1-methylaminoanthraquinone | 41.8 g, yield 94.0% | BrC1=CC=C(C=2C(C3=CC=CC=C3C(C12)=O)=O)N(C(C1=CC=CC=C1)=O)C | C22H14BrNO3
